US07189716B2
4-(8-{4-[2-(3–Chloro-phenyl)-2(S)-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-methyl-9H-purin-2-yl)-piperazine-1-carboxylic acid t-butyl ester:
To a solution of 4-[8-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-methyl-9H-purin-2-yl]-piperazine-1-carboxylic acid t-butyl ester (200 mg, 0.448 mmol) in acetonitrile (10 mL) was added triethylamine (125 μl, 0.896 mmol) and (S)-2-amino-1-(3-chlorophenyl)-ethanol hydrochloride (99 mg, 0.493 mmol). The reaction mixture was stirred at 80° C. for 18 hours in a sealed tube and concentrated. The residue was dissolved in CH2Cl2 (50 mL) washed with H2O (2×30 mL), dried over MgSO4 and concentrated. The crude material was purified by crystallization in hot MeOH (35 mL) to give the title compound as a beige solid. (0.197 g, 76%). HPLC 98%; LCMS (+ESI, M+H+) m/z 581; IR (KBr, cm−1) 3419, 3271, 2975, 1696, 1496, 1232; 1H NMR (400 MHz, DMSO+D2O) δ 10.79 (br s, 1H), 7.59–7.32 (m, 5H), 6.22 (d, J=7.6 Hz, 1H), 5.00 (br t, 1H), 3.73 (br s, 4H, 3.60 (m, 1H), 3.44 (br s, 4H), 2.58 (s, 3H); HRMS calcd for C28H33ClN8O4: 581.2391; found 581.2389.

reactant | 4-[8-(4-chloro-2-oxo-1,2-dihydro-pyridin-3-yl)-6-methyl-9H-purin-2-yl]-piperazine-1-carboxylic acid t-butyl ester | 0.448 mmol, 200 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C2N=C(NC2=N1)C=1C(NC=CC1Cl)=O)C | C20H24ClN7O3
reactant | triethylamine | 0.896 mmol, 125 μl | C(C)N(CC)CC | C6H15N
reactant | (S)-2-amino-1-(3-chlorophenyl)-ethanol hydrochloride | 0.493 mmol, 99 mg | Cl.NC[C@@H](O)C1=CC(=CC=C1)Cl
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 4-(8-{4-[2-(3–Chloro-phenyl)-2(S)-hydroxy-ethylamino]-2-oxo-1,2-dihydro-pyridin-3-yl}-6-methyl-9H-purin-2-yl)-piperazine-1-carboxylic acid t-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC(=C2N=C(NC2=N1)C=1C(NC=CC1NC[C@@H](O)C1=CC(=CC=C1)Cl)=O)C | C28H33ClN8O4
